US07112673B2
d″) 10-Ethoxy-dibenzo[b,f]azepine-5-carboxylic acid methyl ester
A suspension of 10-oxo-10,11-dihydro-dibenzo[b,f]azepine-5-carboxylic acid methyl ester (15 g, 56 mmol) in ethanol (75 ml) is heated to 60° C. and a catalytic amount of p-toluene sulfonic acid (0.213 g, 1.1 mmol) is added. After addition of triethyl ortho-formate (8.73 g, 58.9 mmol) the solution is stirred at 60–70° C. for 4 hours. During this reaction the product precipitates as white crystals. The mixture is cooled to room temperature, filtered and dried to yield 16.0 g of pure title compound (97%).

reactant | 10-oxo-10,11-dihydro-dibenzo[b,f]azepine-5-carboxylic acid methyl ester | 56 mmol, 15 g | COC(=O)N1C2=C(CC(C3=C1C=CC=C3)=O)C=CC=C2 | C16H13NO3
reactant | triethyl ortho-formate | 58.9 mmol, 8.73 g | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | p-toluene sulfonic acid | 1.1 mmol, 0.213 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 10-Ethoxy-dibenzo[b,f]azepine-5-carboxylic acid methyl ester | 16.0 g, 97% | COC(=O)N1C2=C(C=C(C3=C1C=CC=C3)OCC)C=CC=C2 | C18H17NO3
